US09428509B2
2-Chloro-4-cyclobutoxy-5-iodo-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidine
To a suspension of sodium hydride (2 equiv, 60% in mineral oil) in dry THF (0.44 M) under nitrogen atmosphere was added a solution of cyclobutanol (1.05 equiv) in dry THF (1.4 M) at 0° C. The reaction mixture was stirred at room temperature for 30 minutes before 2,4-dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv) in dry THF (0.33 M) was added and the resulting reaction mixture was stirred at 30° C. for 1 h. The reaction mixture was quenched with saturated aqueous ammonium chloride solution. The organic solvent was removed under reduced pressure and the resulting aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated under reduced pressure. The crude obtained was purified by flash column chromatography on silica gel (5% ethyl acetate in petroleum ether) to afford the title compound (95% yield) as a white solid. MS (ESI) m/z 479.2 [M+1]+.

reactant | sodium hydride | 2 equiv | [H-].[Na+]
reactant | cyclobutanol | 1.05 equiv | C1(CCC1)O | C4H8O
reactant | 2,4-dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)Cl | C12H16Cl2IN3OSi
solvent | THF | 0.44 M | C1CCOC1 | C4H8O
solvent | THF | 1.4 M | C1CCOC1 | C4H8O
solvent | THF | 0.33 M | C1CCOC1 | C4H8O
product | 2-Chloro-4-cyclobutoxy-5-iodo-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidine | 95% yield | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2CCC2 | C16H23ClIN3O2Si
